US07540978B2
N-Acetyl-N,N-di(4-isopropylphenyl)amine
4-Isopropyliodobenzene (29.2 g, 118 mmol), N-acetyl-4-isopropylaniline (21.0 g, 118 mmol), copper powder (15.0 g, 237 mmol), potassium carbonate (65.4 g, 474 mmol) and 18-crown-6 (2.9 g, 12 mmol) are heated to reflux in 200 ml of 1,2-dichlorobenzene. The reaction is monitored by thin-layer chromatography (eluent: 10% THF in dichloromethane). After 48 h, the still-hot reaction mixture is filtered, the filter residue is washed thoroughly and the solvent is removed on a rotary evaporator. The crude product is chromatographed on silica gel using 10% THF in dichloromethane. The product fractions are concentrated to dryness, recrystallized from hexane and dried under reduced pressure.

reactant | 4-Isopropyliodobenzene | 118 mmol, 29.2 g | C(C)(C)C1=CC=C(C=C1)I | C9H11I
reactant | N-acetyl-4-isopropylaniline | 118 mmol, 21.0 g | C(C)(=O)NC1=CC=C(C=C1)C(C)C | C11H15NO
reactant | potassium carbonate | 474 mmol, 65.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 12 mmol, 2.9 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | 1,2-dichlorobenzene | 200 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper | 237 mmol, 15.0 g | [Cu] | Cu
solvent | THF | C1CCOC1 | C4H8O
product | N-Acetyl-N,N-di(4-isopropylphenyl)amine | C(C)(=O)N(C1=CC=C(C=C1)C(C)C)C1=CC=C(C=C1)C(C)C | C20H25NO
